US05580904
N-[(2-hydroxy)ethyl]thiazolium bromide
Thiazole (4.3 g) and 2-bromoethanol (12.5 g) were mixed and heated under reflux for 5 hours. The reaction was left standing at room temperature to give white needles. The crystals were washed with acetone, collected by filtration and dried under reduced pressure.

reactant | Thiazole | 4.3 g | S1C=NC=C1 | C3H3NS
reactant | 2-bromoethanol | 12.5 g | BrCCO | C2H5BrO
product | N-[(2-hydroxy)ethyl]thiazolium bromide | [Br-].OCC[N+]1=CSC=C1 | InChI=1S/C5H8NOS.BrH/c7-3-1-6-2-4-8-5-6;/h2,4-5,7H,1,3H2;1H/q+1;/p-1
